*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/TB_temperature_lpe.spi
#else
.include ../../../work/xsch/TB_temperature.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
* .option TNOM=27 GMIN=1e-15 reltol=1e-3
.option TNOM=27 GMIN=1e-10 reltol=2e-3
* .option sparse

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

*
* Analog supply voltage given in Volts (V)
*
.param AVDD = {vdda}
.csparam voltage_supply_csparam = {vdda}

*
* Clock frequency given in MHz
*
.param clock_frequency = 10
.param clock_frequency_mhz = {clock_frequency * 1MegHz}
.param clock_periode = {1/clock_frequency_mhz}
.csparam clock_frequency_csparam = {clock_frequency}
.csparam clock_periode_csparam = {clock_periode}

.param TDCLK = 0us
.param TRCLK = {clock_periode/100}
.param TFCLK = TRCLK
.param PERCLK = clock_periode
.param PWCLK = {PERCLK / 2}

*
* Finetuning signal parameters if manually declared
*
.param TD = 0us
.param TR = TRCLK
.param TF = TR
.param PER = {10 * PERCLK}
.param PW = {PER / 2}

*
* upwards_or_downwards = 1 means that the DAC should step upwards from below the correct bias current
* upwards_or_downwards = 0 means that the DAC should step downwards from above the correct bias current
*
.csparam upwards_or_downwards = 0

* .csparam simulation_length_csparam = 400us
.csparam simulation_length_csparam = 600us

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS 0   dc 0V
VDD  VDD VSS dc {AVDD}

VCLK CLK VSS pulse(0V {AVDD} {TDCLK} {TRCLK} {TFCLK} {PWCLK} {PERCLK})

* VSLP SLP VSS pwl 750.0us 0V 750.1us {AVDD} 799.9us {AVDD} 800.0us 0V 

VRST RST VSS pwl 1.0us 0V 1.1us {AVDD} 14.9us {AVDD} 15.0us 0V 
* + 440.1us 0V 440.2us {AVDD} 440.4us {AVDD} 440.5us 0V 
* + 275.1us 0V 275.2us {AVDD} 285.4us {AVDD} 285.5us 0V 

* REFERENCE MODE = 1, TEMPERATURE MODE = 0
VMODE MODE VSS dc 0

* VB0  B0  VSS pulse(0V {AVDD} {TD} {TR} {TF} {PW} {PER})
Vconn0 finetuning_signal B0 dc 0V

Vconn1 coarse_step1.0 B1 dc 0V
Vconn2 coarse_step1.1 B2 dc 0V
Vconn3 coarse_step1.2 B3 dc 0V
Vconn4 coarse_step1.3 B4 dc 0V
Vconn5 coarse_step1.4 B5 dc 0V
Vconn6 coarse_step1.5 B6 dc 0V
Vconn7 coarse_step1.6 B7 dc 0V
Vconn8 coarse_step1.7 B8 dc 0V
Vconn9 coarse_step2.0 B9 dc 0V
Vcon10 coarse_step2.1 B10 dc 0V
Vcon11 coarse_step2.2 B11 dc 0V
Vcon12 coarse_step2.3 B12 dc 0V
Vcon13 coarse_step2.4 B13 dc 0V
Vcon14 coarse_step2.5 B14 dc 0V
Vcon15 coarse_step2.6 B15 dc 0V

* RSWDRAIN1 SWDRN1 VSS 1m
* RSWDRAIN2 SWDRN2 VSS 1m
* RSWDRAIN3 SWDRN3 VSS 1m

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi
.include ../svinst.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
* .save all
* .option savecurrents

.save 
+ v(clk) v(rst) v(slp) v(mode)
+ v(vss) v(vdd)
+ i(vdd) i(vss)
+ v(b0)
+ v(b1) v(b2) v(b3) v(b4) v(b5) v(b6) v(b7) 
+ v(b8) v(b9) v(b10) v(b11) v(b12) v(b13) v(b14) v(b15) 
+ v(xdut.x1.vt) v(xdut.x1.vctl) v(xdut.x1.vctlb)
+ v(xdut.ifeed)
+ v(SWBRN1) v(SWBRN2) v(SWBRN3) v(SWBGR1) v(SWBGR2) v(SWCAP1) v(SWCAP2) v(SWCAP3) v(SWDRN1) v(SWDRN2) v(SWDRN3)
+ v(xdut.v1) v(xdut.x2.v1a) v(xdut.x2.v1b) 
+ v(xdut.v2) v(xdut.x2.v2a) v(xdut.x2.v2b) v(xdut.x2.v2c)
+ v(xdut.x2.vr1) v(xdut.x2.vr2)
+ v(xdut.x2.vref) v(vout)
+ v(cmp_async) 
+ v(xdut.x1.b0_n)
+ v(xdut.x1.b1_n) v(xdut.x1.b2_n) v(xdut.x1.b3_n)  v(xdut.x1.b4_n)  v(xdut.x1.b5_n)  v(xdut.x1.b6_n)  v(xdut.x1.b7_n)
+ v(xdut.x1.b8_n) v(xdut.x1.b9_n) v(xdut.x1.b10_n) v(xdut.x1.b11_n) v(xdut.x1.b12_n) v(xdut.x1.b13_n) v(xdut.x1.b14_n) v(xdut.x1.b15_n)
+ v(xdut.x1.b1_mid) v(xdut.x1.b2_mid) v(xdut.x1.b3_mid)  v(xdut.x1.b4_mid)  v(xdut.x1.b5_mid)  v(xdut.x1.b6_mid)  v(xdut.x1.b7_mid)
+ v(xdut.x1.b8_mid) v(xdut.x1.b9_mid) v(xdut.x1.b10_mid) v(xdut.x1.b11_mid) v(xdut.x1.b12_mid) v(xdut.x1.b13_mid) v(xdut.x1.b14_mid) v(xdut.x1.b15_mid)
+ v(xdut.x1.vbp) v(xdut.x1.vbn) 
+ v(xdut.x3.x1.vbn) v(xdut.x3.x1.vipdrn) v(xdut.x3.x1.vindrn) v(xdut.x3.x1.vsrc) 

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

set vsupply = {$&voltage_supply_csparam}
set clkfreq = {$&clock_frequency_csparam}
set clkper = {1/clkfreq}
set simlen = {$&simulation_length_csparam}
set up_or_down = {$&upwards_or_downwards}

if $up_or_down > 0
    echo variable up_or_down is {$up_or_down}, which is more than 0
    set stepping_direction = up
else
    echo variable up_or_down is {$up_or_down}, which is not more than 0
    set stepping_direction = down
end

* temperature options to choose from: 
* -40 -35 -30 -25 -20 -15 -10 -5 0 5 10 15 20 25 30 35 40 45 50 55 60 65 70 75 80 85 90 95 100 105 110 115 120 125
* -40 -20 0 25 50 75 100 125
* -40 -20 0 30 60 90 125
* -40 0 40 80 125
* -40 0 125
* -40 125
* 71 72 73 74 76 77 78 79 81 82 83 84 86 87 88 89 91 92 93 94 96 97 98 99 101 102 103 104 106 107 108 109 111 112 113 114 116 117 118 119 121 122 123 124

foreach cirtemp -40 0 40 80 125
    reset
    option temp = $cirtemp
    echo "Current temperature is $temp C"

    echo ------------------------------------------------------------
    echo "view and pvt corner: {cicname}"
    echo "supply voltage: {$vsupply} V"
    echo "circuit temperature: {$cirtemp} C"
    echo "clock frequency {$clkfreq} MHz => clock periode {$clkper} us"
    echo "simulation length: {$simlen} s"
    echo "stepping direction: {$stepping_direction}"
    echo ------------------------------------------------------------

    *- Override the default digital output bridge.
    pre_set auto_bridge_d_out =
        + ( ".model auto_dac dac_bridge(out_low = 0.0 out_high = 1.8)"
        +   "auto_bridge%d [ %s ] [ %s ] auto_dac" )

    optran 0 0 0 1ns 1us 0
    tran 100ns {$simlen}
    * tran 10ns {$simlen}
    * tran 1ns 100us 1ps

    set filedata = stepping_{$stepping_direction}_{$cirtemp}celsius_{$vsupply}volt
    set fend = .raw

    * write {cicname}_{$filedata}{$fend}

    *
    * This last part used to be in tran.meas, but was moved to ensure all simulations are written to .out-files
    *

    * load {cicname}_{$filedata}{$fend}

    set dac = xdut.x1
    set bgr = xdut.x2
    set cmp = xdut.x3.x1

    let v(dac.vt) = v({$dac}.vt)
    let v(dac.vctl) = v({$dac}.vctl)
    let v(dac.vctlb) = v({$dac}.vctlb)
    let v(dac.vbp) = v(xdut.x1.vbp) 
    let v(dac.vbn) = v(xdut.x1.vbn) 

    let v(bgr.v1) = v(xdut.v1)
    let v(bgr.v2) = v(xdut.v2)
    let v(bgr.v1a) = v({$bgr}.v1a)
    let v(bgr.v1b) = v({$bgr}.v1b)
    let v(bgr.v2a) = v({$bgr}.v2a)
    let v(bgr.v2b) = v({$bgr}.v2b)
    let v(bgr.v2c) = v({$bgr}.v2c)
    let v(bgr.vref) = v({$bgr}.vref)
    let v(bgr.vr1) = v({$bgr}.vr1)
    let v(bgr.vr2) = v({$bgr}.vr2)

    let v(cmp.vbn) = v({$cmp}.vbn)
    let v(cmp.vipdrn) = v({$cmp}.vipdrn) 
    let v(cmp.vindrn) = v({$cmp}.vindrn) 
    let v(cmp.vsrc) = v({$cmp}.vsrc) 

    set fend = .out
    set wr_singlescale
    set wr_vecnames
    option numdgt = 5
    echo writing to file named {cicname}_{$filedata}{$fend}
    
    wrdata {cicname}_{$filedata}{$fend}
    + v(clk) v(rst) v(slp) v(mode)
    + v(vss) v(vdd)
    + i(vdd) i(vss)
    + v(b0)
    + v(b1) v(b2) v(b3) v(b4) v(b5) v(b6) v(b7) 
    + v(b8) v(b9) v(b10) v(b11) v(b12) v(b13) v(b14) v(b15) 
    + v(dac.vt) v(dac.vctl) v(dac.vctlb)
    + v(dac.vbp) v(dac.vbn) 
    + v(xdut.ifeed)
    + v(SWBRN1) v(SWBRN2) v(SWBRN3) v(SWBGR1) v(SWBGR2) v(SWCAP1) v(SWCAP2) v(SWCAP3) v(SWDRN1) v(SWDRN2) v(SWDRN3)
    + v(bgr.v1) v(bgr.v1a) v(bgr.v1b) 
    + v(bgr.v2) v(bgr.v2a) v(bgr.v2b) v(bgr.v2c)
    + v(bgr.vr1) v(bgr.vr2)
    + v(bgr.vref) v(vout)
    + v(cmp_async) 
    + v(cmp.vbn) v(cmp.vipdrn) v(cmp.vindrn) v(cmp.vsrc)
    + v(rst_meta) v(reset)
    + v(slp_meta) v(sleep)
    + v(mode_meta) v(operation)
    + v(cmp_meta) v(cmp_sync)
    + v(cmp_rising) v(cmp_falling)
    + v(dec_cmp_rising_counter)
    + v(dec_cmp_switching_counter)
    + v(dec_timeout_counter)
    + v(dec_coarse_step_counter)
    + v(dec_coarse_step1)
    + v(dec_coarse_step2)
    + v(dec_finetuning_duty_cycle)
    + v(dec_finetuning_periode)
    + v(dec_finetuning_counter)
    + v(finetuning_signal)
    + v(stepping_up) 
    + v(correct_output_found)

end

quit

.endc

.end
